US05530118
N-Cycloheptyl-4-(N-methylamino)benzenesulfonamide
Ethanol (20 ml) and 1N aqueous sodium hydroxide (20 ml) were added to the obtained white crystal [N-cycloheptyl-4-(N-acetyl-N-methylamino)benzenesulfonamide] (4.72 g, 90%). The obtained mixture was heated under reflux overnight, acidified by the addition of 1N aqueous hydrochloric acid and adjusted to pH 8 with sodium hydrogencarbonate. The resulting mixture was extracted with ethyl acetate and the organic layer was dried over magnesium sulfate and concentrated to precipitate a crystal. This crystal was recovered by filtration and washed with ether to give the title compound as a white crystal (1.92 g, 44%).

reactant | sodium hydroxide | 1N, 20 ml | [OH-].[Na+]
reactant | N-cycloheptyl-4-(N-acetyl-N-methylamino)benzenesulfonamide | C1(CCCCCC1)NS(=O)(=O)C1=CC=C(C=C1)N(C)C(C)=O | C16H24N2O3S
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | Ethanol | 20 ml | C(C)O | C2H6O
product | N-Cycloheptyl-4-(N-methylamino)benzenesulfonamide | 1.92 g, 44% | C1(CCCCCC1)NS(=O)(=O)C1=CC=C(C=C1)NC | C14H22N2O2S
